US07842694B2
3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-5-[(phenylmethyl)oxy]benzoic acid
Lithium hydroxide monohydrate (19 mg, 0.45 mmol) in water (2 mL) was added to methyl 3-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-5-[(phenylmethyl)oxy]benzoate (0.11 g, 0.3 mmol) in THF (4 mL) and the mixture stirred at RT for 20 hours. The THF was removed in vacuo and the aqueous layer adjusted to pH3 with citric acid then extracted into ethyl acetate (2×30 mL). The organics were washed with water (30 mL), brine (30 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give the desired compound (0.1 g).

reactant | Lithium hydroxide monohydrate | 0.45 mmol, 19 mg | O.[OH-].[Li+]
reactant | methyl 3-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-5-[(phenylmethyl)oxy]benzoate | 0.3 mmol, 0.11 g | FC(OC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1)F | C19H20F2O5
solvent | water | 2 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-5-[(phenylmethyl)oxy]benzoic acid | 0.1 g | FC(OC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1)F | C18H18F2O5
